US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[5-(octadecyloxy)-2-(3-phenylpropoxy)benzoyl]glycine ethyl ester under conditions described in Example 81 gave N-(carboxymethyl)-N-[5-(octadecyloxy)-2-(3-phenylpropoxy)benzoyl]glycine 82% yield, mp 101°-102°).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[5-(octadecyloxy)-2-(3-phenylpropoxy)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCC1=CC=CC=C1)=O)CC(=O)OCC)=O | C42H65NO7
product | N-(carboxymethyl)-N-[5-(octadecyloxy)-2-(3-phenylpropoxy)benzoyl]glycine | 82% yield | C(=O)(O)CN(CC(=O)O)C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCC1=CC=CC=C1)=O | C38H57NO7
